US07786129B2
3-{4-[4-(3-chloro-4-fluorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 from 3-(4-chlorobutyl)-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one and 1-(3-chloro-4-fluorophenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC(=CC=C12)F)=O)CC | C14H17ClFNO
reactant | 1-(3-chloro-4-fluorophenyl)-piperazine | ClC=1C=C(C=CC1F)N1CCNCC1 | C10H12ClFN2
product | 3-{4-[4-(3-chloro-4-fluorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC=1C=C(C=CC1F)N1CCN(CC1)CCCCC1(C(NC2=CC(=CC=C12)F)=O)CC | InChI=1S/C24H28ClF2N3O.ClH/c1-2-24(19-7-5-17(26)15-22(19)28-23(24)31)9-3-4-10-29-11-13-30(14-12-29)18-6-8-21(27)20(25)16-18;/h5-8,15-16H,2-4,9-14H2,1H3,(H,28,31);1H
